US07183270B2
A solution of (1R,3R,4S)-(4-benzyloxycarbonylamino-3-hydroxymethylcyclohexyl)carbamic acid tert-butyl ester (3.49 g, 9.22 mmol) in tetrahydrofuran (40 mL) was treated with diphenyl disulfide (4.03 g, 18.4 mmol) and tri-n-butylphosphine (4.6 mL, 18.4 mmol) and the solution was heated at reflux for 17 h. The mixture was cooled and concentrated under vacuum, and the residue was purified by flash column chromatography, eluting with 10%, then 20% ethyl acetate-hexane, to provide (1S,2R,4R)-(4-tert-butoxycarbonylamino-2-phenyl-sulfanylmethylcyclohexyl)-carbamic acid benzyl ester (4.37 g) as a white glassy solid. MS found: (M+H)+=471.65.

reactant | (1R,3R,4S)-(4-benzyloxycarbonylamino-3-hydroxymethylcyclohexyl)carbamic acid tert-butyl ester | 9.22 mmol, 3.49 g | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)CO)=O | C20H30N2O5
reactant | diphenyl disulfide | 18.4 mmol, 4.03 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | tri-n-butylphosphine | 18.4 mmol, 4.6 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (1S,2R,4R)-(4-tert-butoxycarbonylamino-2-phenyl-sulfanylmethylcyclohexyl)-carbamic acid benzyl ester | 4.37 g | C(C1=CC=CC=C1)OC(N[C@@]1([C@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)C1=CC=CC=C1)CS)=O | C26H34N2O4S
